US07365211B2
A mixture of 2-methyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole (0.040 g, 0.15 mmol), 2,3,5-trichloropyridine (0.274 g, 1.50 mmol), (Ph3P)4Pd(0) (0.019 g, 0.017 mmol), 2 mL of DMF, and 2 mL of a 2 M K3PO4 solution was stirred at 65° C. for. 16 h then allowed to cool. Water (10 mL) was added, and the mixture was extracted with three 5 mL portions of ethyl acetate. The combined organic layers were dried over Na2SO4, filtered, and concentrated to a brown solid. Column chromatography (0→50% EtOAc/hexanes) afforded of 7-(3,5-dichloro-pyridin-2-yl)-2-methyl-2H-indazole (7:R=Me; R′=H; Ar=3,5-dichloro-pyridin-2-yl; 0.042 g; 93%).

reactant | 2-methyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole | 0.15 mmol, 0.040 g | CN1N=C2C(=CC=CC2=C1)B1OC(C(O1)(C)C)(C)C | C14H19BN2O2
reactant | 2,3,5-trichloropyridine | 1.50 mmol, 0.274 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | K3PO4 | 2 M | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | Water | 10 mL | O | H2O
product | 7-(3,5-dichloro-pyridin-2-yl)-2-methyl-2H-indazole | ClC=1C(=NC=C(C1)Cl)C1=CC=CC2=CN(N=C12)C | C13H9Cl2N3
